US09428511B2
Step 3: (+/−)-Cis-benzyl 3-((tert-butoxycarbonyl)amino)-4-(hydroxymethyl)pyrrolidine-1-carboxylate
A solution of 1-benzyl 3-methyl 4-(methoxyimino)pyrrolidine-1,3-dicarboxylate (12.6 g, 41.1 mmol) in THF (100 mL) at −78° C. was added borane THF complex (1M in THF, 148 mL, 148 mmol) dropwise and stirred for 1.5 hrs, and then it was warmed to 0° C. and stirred for 2 hrs and further warmed up to RT and stirred for 16 hrs. The reaction was quenched with water at 0° C. until effervescence ceased, and to it was added K2CO3 (5.68 g, 41.1 mmol). The reaction mixture was warmed up to RT and stirred for 1 hr. (BOC)2O (11.46 mL, 49.4 mmol) was added. The reaction mixture was stirred at RT for 16 hrs. The reaction mixture was added 200 mL of water and 500 mL of EtOAc and stirred for 10 minutes. The organic phase was separated and washed with 200 mL of brine, dried over Na2SO4, and then it was filtered, concentrated and purified by silica gel chromatography, eluting with 0-70% ethyl acetate in hexanes, to give the racemic title compound (5.46 g, 38% yield). 1H NMR (400 MHz, chloroform-d) δ 7.41-7.30 (m, 5H), 5.15 (d, J=1.3 Hz, 2H), 4.86-4.72 (m, 1H), 4.30 (br. s., 1H), 3.94-3.85 (m, 1H), 3.66 (dd, J=11.9, 5.1 Hz, 2H), 3.59-3.44 (m, 3H), 2.96 (q, J=11.4 Hz, 1H), 2.57 (br. s., 1H), 1.50-1.44 (m, 9H). MS(ES+) m/z: 351.1 (M+H); HPLC retention time: 2.79 min (analytical HPLC Method B).

reactant | 1-benzyl 3-methyl 4-(methoxyimino)pyrrolidine-1,3-dicarboxylate | 41.1 mmol, 12.6 g | CON=C1C(CN(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C15H18N2O5
reactant | borane THF | 148 mmol, 1M, 148 mL | B.C1CCOC1
reactant | K2CO3 | 41.1 mmol, 5.68 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (BOC)2O | 49.4 mmol, 11.46 mL | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | water | 200 mL | O | H2O
product | (+/−)-Cis-benzyl 3-((tert-butoxycarbonyl)amino)-4-(hydroxymethyl)pyrrolidine-1-carboxylate | 5.46 g, 38% yield | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1CO)C(=O)OCC1=CC=CC=C1 | C18H26N2O5
